US04851527
The aniline compound employed under (a) with the β-sulfatoethylsulfonyl group can be prepared, for example, as follows: 132.8 parts of 2-(β-hydroxyethylsulfonyl)-4-nitrochlorobenzene are added slowly to a solution of 76.5 parts of ethanolamine in 500 parts by volume of methanol at a temperature of 65° C., and the reaction batch is stirred for a further 6 hours at this temperature. 400 parts by volume of methanol are subsequently distilled off from the reaction batch while simultaneously and continuously adding water. 2-(β-hydroxyethylsulfonyl)-4-nitro-1-(β-hydroxyethyl)aminobenzene crystallizes on cooling from the now aqueous medium in high purity. This compound can be employed for the conversion of the nitro group to the amino group during catalytic hydrogenation. For this, 58 parts of this nitro compound are dissolved in 400 parts by volume of methanol and hydrogenated in an autoclave in the presence of a nickel catalyst at a temperature of 100° C. and pressure of 50 bar of hydrogen. The catalyst is subsequently filtered off and the filtrate allowed to crystallize out by cooling of the methanolic solution. 3-(β-hydroxyethylsulfonyl)-4-(β-hydroxyethylamino)aniline is obtained in good yield and high purity.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2-(β-hydroxyethylsulfonyl)-4-nitrochlorobenzene | OCCS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C8H8ClNO5S
reactant | ethanolamine | C(O)CN | C2H7NO
solvent | methanol | CO | CH4O
product | 3-(β-hydroxyethylsulfonyl)-4-(β-hydroxyethylamino)aniline | OCCS(=O)(=O)C=1C=C(N)C=CC1NCCO | C10H16N2O4S
